US08071608B2
Intermediate AH5: 3-chloro-2-(4-hydroxy-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile
1-(2-bromo-6-chlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one (Intermediate AH4) (1012 mg, 3.11 mmol) and zinc cyanide (329 mg, 2.80 mmol) were dissolved in DMF (15 mL). Sealed into a microwave tube. The tube was purged with nitrogen. 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene (180 mg, 0.31 mmol) and tris(dibenzylideneacetone)dipalladium(0) (142 mg, 0.16 mmol) added. The reaction was heated to 160° C. for 15 minutes in the microwave reactor, then allowed to cool to ambient temperature. The DMF was removed by evaporation. The crude product was absorbed onto silica and then purified by flash silica chromatography, elution gradient 0 to 10% MeOH in DCM to afford the product (769 mg, 91%). 1H NMR (400 MHz, DMSO) δ 7.89-7.83 (1H, t), 8.14 (1H, s), 8.15 (2H, d), 8.49 (1H, s), 12.56 (1H, s); m/z (ES+) (M+H)+=272; HPLC tR=1.29 min.

reactant | 1-(2-bromo-6-chlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 3.11 mmol, 1012 mg | BrC1=C(C(=CC=C1)Cl)N1N=CC2=C1N=CNC2=O | C11H6BrClN4O
reactant | 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.31 mmol, 180 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 2.80 mmol, 329 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.16 mmol, 142 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-chloro-2-(4-hydroxy-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile | 769 mg, 91% | ClC=1C(=C(C#N)C=CC1)N1N=CC=2C1=NC=NC2O | C12H6ClN5O
